US07994205B2
1-[(4-methylphenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde
To a solution of 2-phenyl-1H-imidazole-4-carbaldehyde (1.73 g) in N,N-dimethylformamide (35 mL) was added sodium hydride (60% in oil, 483 mg) at room temperature, and the mixture was stirred for 1 hr. 4-Methylphenylsulfonyl chloride (1.92 g) was added, and the mixture was stirred at 50° C. for 30 min. The reaction mixture was cooled, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with water, 1 mol/L hydrochloric acid and saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→7:3), and crystallized from diisopropyl ether to give the title compound as colorless crystals (yield 1.95 g, 60%).

reactant | 2-phenyl-1H-imidazole-4-carbaldehyde | 1.73 g | C1(=CC=CC=C1)C=1NC=C(N1)C=O | C10H8N2O
reactant | sodium hydride | 483 mg | [H-].[Na+]
reactant | 4-Methylphenylsulfonyl chloride | 1.92 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 1-[(4-methylphenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde | yield 1.95 g, 60% | CC1=CC=C(C=C1)S(=O)(=O)N1C(=NC(=C1)C=O)C1=CC=CC=C1 | C17H14N2O3S
